US05334576
Preparation of 5-(2-chloroethyl)-pyridinedicarboxylic acid, dimethyl ester
A mixture of 18 g of 6-chloro-5-(2-chloroethyl)pyridine-2,3-dicarboxylic acid, dimethyl ester, 1 g of 10% palladium on carbon, and 7 g of sodium acetate in 100 mL methanol is shaken in a hydrogenation apparatus under 15 psi for 23 hours. The reaction is then filtered through celite, and the catalyst is washed with a little methanol. The combined filtrates are concentrated in vacuo, and the residue is partitioned between methylene chloride and water. The organic phase is washed with saturated bicarbonate, dried, and concentrated in vacuo. The residue is chromatographed on silica gel using hexane-ethyl acetate mixtures to afford 8.9 g of the desired product as an oil.

reactant | 6-chloro-5-(2-chloroethyl)pyridine-2,3-dicarboxylic acid, dimethyl ester | 18 g | ClC1=C(C=C(C(=N1)C(=O)OC)C(=O)OC)CCCl | C11H11Cl2NO4
reactant | sodium acetate | 7 g | C(C)(=O)[O-].[Na+]
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 5-(2-chloroethyl)-pyridinedicarboxylic acid, dimethyl ester | 8.9 g | ClCCC=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C11H12ClNO4
